Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lipitor / Lovastatin / Fosamax
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ h/o AFib and diet controlled diabetes presenting with 2 
week h/o worsening shortness of breath and productive cough.
Patient was in her usual state of health until 2 weeks ago when 
she suddenly developed non-productive cough, tightness of chest, 
and malaise. She then developed sputum production but never 
looked at until today, which was brown/rust colored. She had 
subjective fever and chills. Alos reports an episode of night 
sweat during this period. She had appetite loss and minimal oral 
intake. She felt increasingly difficult to breath and fatigued. 
She noticed worsening palpitations. She also reports several day 
history of dysuria, malodorous urine, and burning involving her 
bladder area. She had been recently treated for UTI w/ 
nitrofurantoin antibiotic ___ and has remained symptom free 
until recently. She also reports constant ___ burning sensation 
in her stomach during this period. Of note, this was similar to 
her prior gastritis symptoms. She denies any ASA or NSAIDS use. 
She had a small formed BM today. Denies hematochezia or melana. 
She noticed worsenig pallor lately. Concered about possible 
weight gain recently. She denies orthopnea. She has a long 
history of leg swelling, which as not changed lately.  

She was seen by her PCP on the day of admission and was found to 
have O2 sat of 89% on RA, HR 101. Per PCP, her exams were 
notable for dry mucus membranes, left TM injected, coarse breath 
sounds bilaterally with rhonchi on right.  She was sent to the 
ED for hypoxia and workup of potential pneumonia. 
.  
In the ED, initial VS were: 99.7 92 140/62 20 92% 2L. CXR showed 
inccreased interstitial marking possibly due to fluid overload, 
but  superimposed infectious process could not excluded. There 
was a more confluent opacity in the right lung base. Notable 
labs as follows: Na was 132, BNP 677, Hct 30.1, WBC 11.6, INR 
5.4. She was also noted to have cloudy, foul-smelling urine in 
the ED. UA showed trace leukesterase, WBC 10, negative nitrites. 
Urine culture and legionella antigen were sent. Patient was 
given a dose of ceftriaxone 1gm and azithromycin 500mg IV.  
Vitals on transfer were 98.1po  117/58 85  19  97% 2.5L. She was 
admitted to the medicine service for the further management and 
evaluation.
.  
Review of systems:  
(+) Per HPI  
(-) Denies sinus tenderness, rhinorrhea or congestion. 

 
Past Medical History:
1. Diabetes Mellitus Type 2 - diet controlled; HbA1C 6.2
2. Chronic Atrial Fibrillation - on warfarin
3. Hypothyroidism  
4. Osteoporosis - last bone density was in ___, did not 
tolerate bisphosphonate after very short trial.  
5. Hyperlipidemia - with statin intolerance  
6. Cataracts  
7. Diverticulosis 
8. Depression: recurred in ___, seen by ___  
9. Gastritis

 
Social History:
___
Family History:
The patient grew up in a foster home and has no  
children. She didn't know her family so doesn't know much ___, 
but states has one aunt with throat ca and another with stroke. 
No other known cardiac family hx.
 
Physical Exam:
Admission Physical Exam:  
Physical Exam:  
Vitals: 98.8 112/64 91 24 92 on 2L
General: Alert, interactive, no acute distress. Pale  
HEENT: Sclera anicteric, MM dry, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: coarse breath sounds b/l, L > R, diffuse expiratory 
wheezing on RUL, RLL, frequent productive cough
CV: Tachycardic, regular rhythm, NL S1, S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no guarding, no organomegaly, no CVA tenderness  
Ext: 2+ nonpitting edema, warm, well perfused, 2+ pulses, no 
clubbing, cyanosis or edema  
Neuro: CN II-XII grossly intact, no gross focal deficits 

.
Discharge Physical Exam
Physical Exam:  
Vitals: 97.8 130/60 79 18 93RA
General: Alert, interactive, no acute distress
HEENT: Sclera anicteric, MM moist, oropharynx clear, no 
discharges, erythema, or tenderness involving the external ears 
b/l.   
Neck: supple, JVP not elevated, no LAD  
Lungs: coarse breath sounds with diffuse crackles bilaterally L 
worse than R, no wheezes
CV: regular rate, rhythm, NL S1, S2, no murmurs, rubs, gallops  
Abdomen: large ecchymosis at the heparin inj site, soft, 
non-tender, non-distended, bowel sounds present, no guarding, no 
organomegaly, no CVA tenderness  
Ext: 1+ nonpitting edema unchanged from the previous day, warm, 
well perfused, 2+ pulses, no clubbing, cyanosis or edema  
Neuro: CN II-XII grossly intact, no gross focal deficits, 
hearing inteact 

 
Pertinent Results:
___ 03:40PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:40PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-TR
___ 03:40PM URINE  RBC-2 WBC-10* BACTERIA-FEW YEAST-NONE 
EPI-0
___ 01:00PM   GLUCOSE-137* UREA N-12 CREAT-0.6 SODIUM-132* 
POTASSIUM-3.3 CHLORIDE-94* TOTAL CO2-27 ANION GAP-14
___ 01:00PM   cTropnT-<0.01 proBNP-677*
___ 01:00PM   LACTATE-1.3
___ 01:00PM   WBC-11.6*# RBC-3.24* HGB-10.4*# HCT-30.1*# 
MCV-93 MCH-32.0 MCHC-34.4 RDW-13.0
___ 01:00PM   NEUTS-89.4* LYMPHS-7.5* MONOS-2.2 EOS-0.4 
BASOS-0.4
___ 01:00PM   PLT COUNT-421#
___ 01:00PM   ___ PTT-42.8* ___
___ 07:30AM BLOOD WBC-6.4 RBC-3.40* Hgb-10.8* Hct-32.2* 
MCV-95 MCH-31.8 MCHC-33.5 RDW-13.8 Plt ___
___ 07:30AM BLOOD ___ PTT-43.6* ___
___ 07:44AM BLOOD Ret Aut-1.2
___ 07:30AM BLOOD Glucose-101* UreaN-12 Creat-0.7 Na-141 
K-4.0 Cl-103 HCO3-30 AnGap-12
___ 06:45AM BLOOD cTropnT-<0.01
___ 07:30AM BLOOD Mg-2.0
___ 07:44AM BLOOD calTIBC-150* VitB12-GREATER TH 
___ Ferritn-638* TRF-115*

 
Brief Hospital Course:
___ with past medical history notable for AF, diet controlled 
DM, hypothyroidism, and recent UTI treatment p/w 2wk h/o 
worsening SOB, productive cough, subjective fever and chills and 
dysuria, malodorous urine.

#  SHORTNESS OF BREATH
Patient was diagnosed with pneumonia given the constellation of 
symptoms involving initially non-productive to productive cough, 
worsening shortness of breath, chest tightness, subjective fever 
or chills, and malaise. CXR shows bilateral interstitial 
thickening and possible RLL involvement. Influenza swaps were 
negative. Patient was treated with azithromycin and ceftriaxone 
and then switched to levofloxacin. She remained afebrile and 
hemodynamically stable. Her respiratory status improved upon 
antibiotics administration. She gradually came off O2 
supplement. Her leukocytosis resolved. Her ambulatory O2 sat was 
95% on RA. She was discharged with the plan to complete the 
total 7day course of antibiotics. 
.
# diarrhea: Patient developed loose stools a couple of days 
prior to discharge.  It was thought this was due to the 
antibiotics as her cdiff was negative. She was given immodium 
and it improved.
.
# UTI
She presented with dysuria, malodorous urine, and microscopic 
urine exam notable for increased WBC and few bacteria. UCx was 
positive for pan-sensitive E.coli. She was treated with azithro 
+ ceftriaxone initially and switched to levofloxacin as above. 
.
# ANEMIA
Per OMR, she had significant Hct drop from 41 to 30 over the 3 
month period since ___. There was no evidence of active 
bleeding. Guaic was neg. Normocytic with inappropriate rectic 
with nl iron study/folate/B12 was consistent with anemia of 
chronic illness. Her Hct remained stable.
.
# ELEVATED INR
She presented with INR of 5.4. Coumadin was held initially. It 
was restarted at 2mg once her INR came close to her target range 
of ___ (Please see the lab section). She was discharged on 2mg 
coumadin with the instruction to get her INR checked on ___ at 
the ___ clinic.
.
# NEW DIASTOLIC LV DYSFUNCTION
Echocardiogram revealed new grade II diastolic LV dysfunction. 
There however was no evidence of pulmonary edema throughout the 
___ hospital course. She was recommended to start taking 
lisinopril 2.5mg daily upon discharge and follow up with PCP.
.
#  SWALLOWING DIFFICULTY
She developed a sudden difficulty swallowing her pill on 
hospital day #2. Speech and Swallow consult was made. It was 
thought to be functional difficulty. It resolved spontaneously 
within hours. 
.

#  Hearing difficulty
She developed sudden onset hearing diminishment and crackles on 
hospital day 2. There was no evidence of infection upon exam. It 
was thought to be related to her current PNA/URI. Patient 
requested an ENT follow up arrangement upon discharge.

# Chronic Atrial Fibrillation 
Patient remained hemodynamically stable on coumadin throughout 
the course

# Diabetes Mellitus
Glucose was well controlled in insulin sliding scale. 
.  
# Hypothyroidism: 
She continued on outpatient levothyroxine regimen.

# TRANSITIONAL ISSUE
- Resolution of PNA symptoms
- Follow up on anemia
- INR check, ___
- Follow up on ear complaints, ENT visit scheduled
- Started on lisinopril - check electrolytes in ___
- Follow up on new diastolic LV dysfunction
 
Medications on Admission:
- bupropion HCl 75 mg Tablet BID (take ___ tablet before 5pm)
- levothyroxine [Synthroid] 50 mcg Tablet - Take 2 tablets on 
___ for a total of 100 mcg
- metoprolol succinate 25 mg Tablet Extended Release 24 hr daily
- warfarin 2.5 mg Tablet - AS DIRECTED BY ___ CLINIC
- acetaminophen 325 mg Tablet, ___ Tablet(s) Q6H: PRN
- calcium citrate-vitamin D3 315 mg-200 unit - 2 Tabs BID with 
food
- geriatric multivit w/iron-min [___ Senior] - 1 tablet 
daily
- omega-3 fatty acids-vitamin E [Fish Oil] - 1,000 mg Capsule x3 
capsules daily 
 
Discharge Medications:
1. bupropion HCl 75 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day): by mouth.
2. levothyroxine 50 mcg Tablet Sig: 1 tablet daily ___ through 
___, 2 tablets on ___ Tablet PO once a day: by mouth.
3. metoprolol succinate 25 mg Tablet Extended Release 24 hr Sig: 
One (1) Tablet Extended Release 24 hr PO once a day: by mouth.
4. warfarin 2 mg Tablet Sig: One (1) Tablet PO Once Daily at 4 
___: by mouth AS DIRECTED BY ___ CLINIC.
5. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain: as needed for pain; by mouth.
6. Calcium Citrate + D 315-200 mg-unit Tablet Sig: Two (2) 
Tablet PO twice a day: 2 tablets twice daily with food.
7. Spectravite Senior Tablet Sig: One (1) Tablet PO once a day: 
by mouth.
8. omega-3 fatty acids Capsule Sig: One (1) Capsule PO TID (3 
times a day): by mouth.
9. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO once a day 
for 1 days: take on ___. Disp:*1 Tablet(s)* Refills:*0*
10. Imodium A-D 2 mg Tablet Sig: One (1) Tablet PO as needed for 
loose stool as needed for diarrhea for 10 doses. Disp:*10 
Tablet(s)* Refills:*0*
11. Guaifenesin AC ___ mg/5 mL Liquid Sig: Five (5) mL PO 
twice a day as needed for cough: This medication may make you 
sleepy. Do not drive while using this medication. Disp:*1 
bottle* Refills:*0*
12. Outpatient Lab Work INR check by ___ clinic 
on ___. Outpatient Lab Work electrolytes checked on ___ by Dr. 
___
14. lisinopril 2.5 mg Tablet Sig: One (1) Tablet PO once a day. 
Disp:*30 Tablet(s)* Refills:*0*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Pneumonia
Urinary tract infection
Supratherapeutic INR

SECONDARY DIAGNOSIS
1. Diabetes Mellitus Type 2 - diet controlled. 
2. Paroxysmal Atrial Fibrillation
3. Hypothyroidism  
4. Osteoporosis 
5. Hyperlipidemia - with statin intolerance
6. Cataracts  
7. Diverticulosis 
8. Depression  
9. Venous insufficiency 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ for pneumonia and urinary tract 
infection on ___. 

Your breathing improved quickly with the antibiotics 
(ceftriaxone/azithromycin initially, which was switched to oral 
levofloxacin). By the time of your discharge, you were able to 
breath well without oxygen supplement and walk around without 
any difficulty. 

The burning sensation you had with urinating also resolved 
quickly upon treatment with the above antibiotics. Your blood 
culture was pending at the time of discharge. Please follow up 
on this with your PCP.

You unfortunately developed diarrhea. We think this is related 
to the antibiotics given to treat pneumonia and urinary tract 
infection. You tested negative for C. difficile. We started you 
on anti-diarrheal agent prior to discharge. You can take 2mg 
after each loose stool until you feel better. Diarrhea should 
resolve once you complete your last dose of antibiotics on ___. 
You should continue to drink plenty of fluids to avoid becoming 
dehydrated.

You also developed some congestion involving both of your ears 
with some minor hearing diminishement. There was no evidence of 
active infection in your ears. We think this is related to your 
ongoing pneumonia and prior upper respiratory tract infection. 
We have scheduled an appointment with the ear nose throat 
specialist.

You came in with elevated INR of 5.4. We held coumadin initially 
and decreased the dose to 2mg. It came down to the target range 
___ (3.1 on ___ by the time of your discharge. You should have 
INR rechecked on ___. 

We found that you were anemic. This was a significant change 
from your last blood count measured in ___. The tests 
we ordered were all fine (iron study, folate, B12). You did not 
have blood in your stool. You should follow up with your PCP on 
this issue. 

The repeat ultrasound of your heart should a new mild difficulty 
with your heart relaxation (left ventricular diastolic 
dysfunction), but you did not have any complication related to 
this during this hospital stay. We started you on a new 
medication called lisinopril, which is known to be beneficial in 
this condition. You should follow up with PCP on this issue and 
have your labs checked within 2 weeks.

We made the following changes to your medications:

- ADDED levofloxacin (last day ___
- ADDED lisinopril (given new findings on the heart ultrasound)
- ADDED imodium for diarrhea
- ADDED guafenesin for cough suppressant
- DECREASED coumadin dose to 2mg

You should finish your antibiotics course by taking your last 
dose on ___.

You will be followed by the transitions of care team from Dr. 
___. They will call you tomorrow to check in to see 
how you are doing.
 
Followup Instructions:
___